US06599917B1
b) 5-(α-Hydroxybenzyl)3-phenyl-6-methoxypyridazine
7,7 ml of a hexane solution containing 1.52 mol of normal butyllithium was slowly added dropwise into a solution of 50 ml of tetrahydrofuran containing 2.0 ml of 2,2,6,6-tetramethylpiperidine under ice-cooling. After stirring for one hour under ice-cooling, it was cooled to −78° C. and 10 ml of a tetrahydrofuran solution containing 1.68 g of 3-phenyl-6-methoxypyridazine was slowly added dropwise thereinto. After stirirng at −78° C. for 2 hours, benzaldehyde was slowly added dropwise thereinto. After stirring at −78° C. for further 30 minutes, it was stirred at room temperature overnight. Water was added to the reaction solution, extracted with ethyl acetate and the organic phase was washed with brine. After removing the solvent, the residue was subjected to NH-silica gel (Fuji Silicia) chromatography and eluted with hexane/ethyl acetate (3:1) and then with hexane/ethyl acetate (1:1), to give 1.39 g of the target compound.

reactant | normal butyllithium | 1.52 mol | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-phenyl-6-methoxypyridazine | 1.68 g | C1(=CC=CC=C1)C=1N=NC(=CC1)OC | C11H10N2O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 7,7 ml | CCCCCC | C6H14
product | 5-(α-Hydroxybenzyl)3-phenyl-6-methoxypyridazine | 1.39 g | OC(C1=CC=CC=C1)C=1C=C(N=NC1OC)C1=CC=CC=C1 | C18H16N2O2
